US05591733
3α-Isobutyloxy-5α-pregnan-20-one
To a stirred solution of 3β-hydroxy-5α-pregnan-20-one (8 g, 318.5 g/m, 25 mmol) in 200 mL of freshly distilled tetrahydrofuran (THF), triphenylphosphine (9.88 g, 262.3 g/m, 38 mmol), and isobutyric acid (3.5 mL) were added. To this stirred reaction mixture at room temperature was added a solution of diisopropylazidodicarboxylate (DIAD, 7.42 mL, 1.027 g/mL, 202.2 g/m, 38 mmol) in 75 mL of THF dropwise over a period of 10 minutes. The solution was stirred overnight. TLC indicated that the reaction was not complete. Triphenylphosphine (6.58 g), DIAD (4.94 mL), and isobutyric acid (2.33 mL) were added to the reaction and allowed to stir at room temperature for an additional 3 hours. TLC indicated complete reaction. The excess THF was evaporated and the residue was purified by column chromatography on silica gel with 90:10 hexane:ethyl acetate elution to give 7.3 g (346.5 g/m, 83.9%).

reactant | 3β-hydroxy-5α-pregnan-20-one | 25 mmol, 8 g | O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H34O2
reactant | triphenylphosphine | 38 mmol, 9.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | isobutyric acid | 3.5 mL | C(C(C)C)(=O)O | C4H8O2
reactant | Triphenylphosphine | 6.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | isobutyric acid | 2.33 mL | C(C(C)C)(=O)O | C4H8O2
solvent | THF | 75 mL | O1CCCC1 | C4H8O
product | 3α-Isobutyloxy-5α-pregnan-20-one | C(C(C)C)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C25H42O2
